US06096788
N,N,N,N',N',N'-hexapropyl-1,16-hexadecanediaminium dibromide
The crystalline form of the derivative defined in the title is obtained using the -1,16-dibromohexadecane derivative and tripropylamine according to the conditions described above, M.P. 227° C.

reactant | 1,16-dibromohexadecane | BrCCCCCCCCCCCCCCCCBr | C16H32Br2
reactant | tripropylamine | C(CC)N(CCC)CCC | C9H21N
product | N,N,N,N',N',N'-hexapropyl-1,16-hexadecanediaminium dibromide | [Br-].[Br-].C(CC)[N+](CCCCCCCCCCCCCCCC[N+](CCC)(CCC)CCC)(CCC)CCC | InChI=1S/C34H74N2.2BrH/c1-7-27-35(28-8-2,29-9-3)33-25-23-21-19-17-15-13-14-16-18-20-22-24-26-34-36(30-10-4,31-11-5)32-12-6;;/h7-34H2,1-6H3;2*1H/q+2;;/p-2
